US06888032B2
The general procedure in example 39 was followed. 2-Iodoaniline (219 mg, 1.0 mmol), 4-tert-butylthiophenol (166 mg, 1.0 mmol), CuI (10 mg, 0.05 mmol), K2CO3 (276 mg, 2.0 mmol), ethylene glycol (111 μL, 2.0 mmol) and 2-propanol (1.0 mL) were used to obtain the 2-(4-tert-butylphenyl)sulfanylaniline (231 mg, 90% yield) as light yellow liquid. Column chromatographic solvent (hexane/ethyl acetate=20/1). Rf=0.4 (hexane/ethyl acetate=10/1). 1H NMR (CDCl3, 300 MHz) δ 7.42 (dd, 1 H, J=1.5 Hz, 7.5 Hz), 7.17-7.24 (m, 4 H), 7.00 (dt, 2 H, J=1.8 Hz, 8.4 Hz), 6.70-6.78 (m, 2 H), 4.28 (brs, 2 H), 1.26 (s, 9 H). 13C NMR (CDCl3, 75 MHz) δ 148.8, 148.7, 137.5, 133.3, 131.1, 126.5, 126.3, 118.9, 115.5, 115.0, 34.8, 31.7. IR (neat, cm−1) 3471, 3375, 3072, 3062, 3020, 2962, 2902, 2867. MS (EI) m/z (relative intensity) 257 (70), 242 (100). Anal. Cald. for C16H19NS, Cald. C, 74.66; H, 7.44. Found C, 74.64; H, 7.30.

reactant | 2-Iodoaniline | 1.0 mmol, 219 mg | IC1=C(N)C=CC=C1 | C6H6IN
reactant | 4-tert-butylthiophenol | 1.0 mmol, 166 mg | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 2-(4-tert-butylphenyl)sulfanylaniline | 231 mg, 90% yield | C(C)(C)(C)C1=CC=C(C=C1)SC1=C(N)C=CC=C1 | C16H19NS
